US04515814
2. 4-(2-Cyclohexyloxyethyl)-phenol
16 g (0.049 mol) of cyclohexyloxymethyl (4-benzyloxyphenyl) methanone are hydrogenated under a hydrogen pressure of 50 psi, at a temperature of 35 to 40° C., in solution in 150 cc of methanol containing a few drops of 70% HClO4 solution and 1 g of 5% palladium-on-charcoal. The catalyst is filtered off, the solvent is evaporated off in vacuo and the residual oil is chromatographed on a silica column (eluent: 8/2 cyclohexane/ethyl acetate). An oil is collected which has a refractive index nD18 =1.5335; boiling point 0.01=130° C.

reactant | cyclohexyloxymethyl (4-benzyloxyphenyl) methanone | 0.049 mol, 16 g | C1(CCCCC1)OCC(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C21H24O3
catalyst | methanol | 150 cc | CO | CH4O
catalyst | palladium-on-charcoal | 1 g | [Pd] | Pd
product | 4-(2-Cyclohexyloxyethyl)-phenol | C1(CCCCC1)OCCC1=CC=C(C=C1)O | C14H20O2
